US04008272
24.3 g (0.3 mole) of potassium isocyanate in solution in 75 cm3 of water is added to 57.9g (0.25 mole) of 4-nitro-2-methyl-N-(β-aminoethyl) aniline monohydrochloride in 235 cm3 of water at 60°. After keeping the reaction mixture for 15 minutes in a boiling water bath, drying yields 48 g of 4-nitro-2-methyl-N-(β-ureido-ethyl)aniline which, after recrystallization in acetic acid, melts at 186° C.

reactant | potassium isocyanate | 0.3 mole, 24.3 g | [N-]=C=O.[K+]
reactant | 4-nitro-2-methyl-N-(β-aminoethyl) aniline monohydrochloride | 0.25 mole, 57.9g | Cl.[N+](=O)([O-])C1=CC(=C(NCCN)C=C1)C
solvent | water | 75 cm3 | O | H2O
solvent | water | 235 cm3 | O | H2O
product | 4-nitro-2-methyl-N-(β-ureido-ethyl)aniline | 48 g | [N+](=O)([O-])C1=CC(=C(NCCNC(=O)N)C=C1)C | C10H14N4O3
